US05328911
2-Ethyl-7-methyl-3-[{2'-(1H-tetrazol-5-yl)biphenyl-4-yl}methyl]-3H-imidazo[4,5-b]pyridine
10 g (0.027M) of 3-[(2'-cyanobiphenyl-4-yl)methyl]-2-ethyl-7-methyl-3H-imidazo[4,5-b]pyridine, 5.3 g (0.081M) of sodium azide and 5.6 g (0.041M) of triethylamine hydrochloride were suspended in 70 ml of N-methylpyrrolidone. The temperature of an oil bath was raised to 150° to 160° C. over a period of 20 min while stirring with a stirrer. The temperature was returned to room temperature after 6 hr, and water was added thereto. The mixture was washed with ethyl acetate (50 ml×3). The watery phase was acidified with acetic acid and extracted with ethyl acetate (100 ml×5). The extract was dried over magnesium sulfate, and the solvent was distilled off in vacuo. The blackish brown oleaginous substance as the residue was purified by medium pressure column chromatography (SiO2, ACOEt:EtOH=40:1~20:1~10:1). The yield was 11 g. Brown oleaginous substance.

reactant | 3-[(2'-cyanobiphenyl-4-yl)methyl]-2-ethyl-7-methyl-3H-imidazo[4,5-b]pyridine | 0.027M, 10 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC=2C1=NC=CC2C)CC | C23H20N4
reactant | sodium azide | 0.081M, 5.3 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 0.041M, 5.6 g | Cl.C(C)N(CC)CC
reactant | water | O | H2O
solvent | N-methylpyrrolidone | 70 ml | CN1C(CCC1)=O | C5H9NO
product | 2-Ethyl-7-methyl-3-[{2'-(1H-tetrazol-5-yl)biphenyl-4-yl}methyl]-3H-imidazo[4,5-b]pyridine | C(C)C1=NC=2C(=NC=CC2C)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C23H21N7
